US04267175
Ethyl iodide (8.13 g, 0.052 mole) was added to acetone (80 ml) containing N-nitroso piperazine (6.0 g, 0.052 mole) (prepared as described in U.S. Pat. No. 2,907,767) and anhydrous potassium carbonate (7.3 g, 0.052 mole). The mixture was heated under reflux for 24 hours, cooled, treated with water (50 ml) evaporated to 1/2 volume and extracted with ether (3×150 ml). The combined extracts were dried (K2CO3) filtered and evaporated in vacuo to yield N-ethyl-N'-nitrosopiperazine (7.71 g, 98%), as a straw coloured oil.

reactant | Ethyl iodide | 0.052 mole, 8.13 g | C(C)I | C2H5I
reactant | acetone | 80 ml | CC(=O)C | C3H6O
reactant | N-nitroso piperazine | 0.052 mole, 6.0 g | N(=O)N1CCNCC1 | C4H9N3O
reactant | potassium carbonate | 0.052 mole, 7.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50 ml | O | H2O
product | N-ethyl-N'-nitrosopiperazine | 7.71 g, 98% | C(C)N1CCN(CC1)N=O | C6H13N3O
